US07897767B2
Thionyl chloride (2.65 mL, 36.2 mmol) was added dropwise to a stirred suspension of [4-amino-1-(2-methylpropyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-2-yl]methanol (4.97 g, 18.1 mmol) in 1,2-dichloroethane (200 mL). The suspension dissolved, then a precipitate formed after 5 minutes. The reaction mixture was stirred at room temperature for 6 hours, then was concentrated under reduced pressure to yield crude 2-(chloromethyl)-1-(2-methylpropyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride, all of which was used in the next step.

reactant | Thionyl chloride | 36.2 mmol, 2.65 mL | S(=O)(Cl)Cl | Cl2OS
reactant | [4-amino-1-(2-methylpropyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-2-yl]methanol | 18.1 mmol, 4.97 g | NC1=NC=2CCCCC2C2=C1N=C(N2CC(C)C)CO | C15H22N4O
solvent | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
product | 2-(chloromethyl)-1-(2-methylpropyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride | Cl.ClCC=1N(C2=C(C(=NC=3CCCCC23)N)N1)CC(C)C | InChI=1S/C15H21ClN4.ClH/c1-9(2)8-20-12(7-16)19-13-14(20)10-5-3-4-6-11(10)18-15(13)17;/h9H,3-8H2,1-2H3,(H2,17,18);1H
